US07504401B2
[3-Hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-hydroxymethyl-pyridin-3-yl)-methanone
Acetic acid 5-[3-bromo-5-(4-methoxy-benzyloxy)-benzoyl]-pyridin-2-ylmethyl ester. To a stirred solution of 3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-(6-methyl-pyridin-3-yl)-methanone (388 mg, 0.94 mmol) in dry methylene chloride (20 mL) at 0° C. was added dropwise a solution of MCPBA (0.371 mg, 1.50 mmol) in methylene chloride (10 mL). The resulting solution was stirred overnight. TLC indicated that the completion of the reaction. The organic phase was washed with sat. NaHCO3, dried, and concentrated. The crude product was then dissolved in Ac2O (2 mL) and the resulting solution was stirred at 150° C. for 30 min. TLC indicated that the completion of the reaction. The reaction mixture was then poured into an ice cold sat. NaHCO3 solution and stirred for 20 min. The aqueous phase was the extracted with EtOAc for three times. After removal of the solvents, the crude product was purified by flash chromatography (4:1 Hexane/EtOAc) to afford the titled product (0.140 mg, 31% over two steps).

reactant | Acetic acid 5-[3-bromo-5-(4-methoxy-benzyloxy)-benzoyl]-pyridin-2-ylmethyl ester | BrC=1C=C(C(=O)C=2C=CC(=NC2)COC(C)=O)C=C(C1)OCC1=CC=C(C=C1)OC | C23H20BrNO5
reactant | (6-methyl-pyridin-3-yl)-methanone | 0.94 mmol, 388 mg | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | MCPBA | 1.50 mmol, 0.371 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | [3-Hydroxy-5-(1H-indol-4-yl)-phenyl]-(6-hydroxymethyl-pyridin-3-yl)-methanone | 0.140 mg, 31% | OC=1C=C(C=C(C1)C1=C2C=CNC2=CC=C1)C(=O)C=1C=NC(=CC1)CO | C21H16N2O3
